* source VOLTAGE_MULTIPLIER
C_C1         N14840 N14756  0.01u  TC=0,0 
D_D1         N14716 N15446 Dbreak 
C_C2         N14716 N14840  0.01u  TC=0,0 
D_D2         N15043 N14716 Dbreak 
D_D3         N14756 N15043 Dbreak 
D_D4         0 N14756 Dbreak 
V_V1         N14840 N15043  AC 1
+SIN 0 3200 15k 0 0 0
C_C3         N15446 N17727  0.01u  TC=0,0 
C_C4         N17727 N15043  0.01u  TC=0,0 
C_C5         N15043 N18570  0.01u  TC=0,0 
C_C6         N18570 0  0.01u  TC=0,0 
R_R2         0 N15446  2MEG TC=0,0 
R_R3         N18570 N15043  100M TC=0,0 
R_R4         N15043 N17727  100M TC=0,0 
C_C8         N22336 N22382  0.01u  TC=0,0 
R_R10         N22948 N22376  1R TC=0,0 
C_C9         N22414 N22514  0.01u  TC=0,0 
D_D8         0 N22376 Dbreak 
D_D5         N22336 N22414 Dbreak 
R_R6         N22959 N22955  3M TC=0,0 
R_R9         N22392 N22514  100M TC=0,0 
R_R8         N22656 N22392  100M TC=0,0 
V_V2         N22948 N22959  AC 1
+SIN 0 3000 15k 0 0 0
C_C10         N22514 N22392  0.01u  TC=0,0 
C_C11         N22392 N22656  0.01u  TC=0,0 
R_R7         0 N22414  2MEG TC=0,0 
C_C7         N22382 N22376  0.01u  TC=0,0 
D_D6         N22392 N22336 Dbreak 
C_C12         N22656 0  0.01u  TC=0,0 
D_D7         N22376 N22392 Dbreak 
C_C13         N22955 0  0.01u  TC=0,0 
R_R11         N22382 N22336  100M TC=0,0 
C_C14         N22414 0  0.1uF  TC=0,0 
C_C15         N15446 0  0.1uF  TC=0,0 
V_V3         N27016 N27049  AC 1
+SIN 0 3100 15k 0 0 0
D_D9         N27049 N27156 Dbreak 
R_R14         N27049 N27341  5MEG TC=0,0 
C_C23         N27016 N27156  0.1u  TC=0,0 
C_C24         N27016 N27220  0.1u  TC=0,0 
D_D10         N27220 N27049 Dbreak 
C_C25         N27049 N27341  0.1u  TC=0,0 
D_D11         N27156 N27341 Dbreak 
D_D12         0 N27220 Dbreak 
C_C26         0 N27049  0.1u  TC=0,0 
R_R15         0 N27049  5MEG TC=0,0 
R_R16         0 N27341  6MEG TC=0,0 
R_R21         N33264 N33228  10k TC=0,0 
E_U2         N33276 0 VALUE {LIMIT(V(N33228,N33200)*1E6,-15V,+15V)}
R_R22         N33200 N35514  2.7k TC=0,0 
V_V5         N33264 0 12
R_R23         0 N33276  1k TC=0,0 
R_R24         0 N33228  3.9k TC=0,0 
V_V6         0 N34659 3.2
R_R27         0 N46544  1MEG TC=0,0 
E_U3         N34671 0 VALUE {LIMIT(V(0,N34639)*1E6,-15V,+15V)}
R_R26         N34639 N346250  2.4k TC=0,0 
R_R25         N34659 N34639  5.1k TC=0,0 
R_R30         N35514 N33276  1R TC=0,0 
I_I3         N40732 N40736 DC 200uA  
R_R39         0 N40736  100 TC=0,0 
V_V9         N40732 0 12000
E_U5         N40634 0 VALUE {LIMIT(V(N40736,N40610)*1E6,-15V,+15V)}
R_R38         0 N40634  1k TC=0,0 
R_R37         N40610 N40634  5k TC=0,0 
R_R40         N40736 N40610  10k TC=0,0 
V_V10         N41672 0 12000
R_R41         N41566 N41580  10k TC=0,0 
R_R44         N41684 N41566  10k TC=0,0 
E_U6         N41580 0 VALUE {LIMIT(V(0,N41566)*1E6,-15V,+15V)}
R_R43         0 N41684  100 TC=0,0 
I_I4         N41672 N41684 DC 3ma  
R_R42         0 N41580  1k TC=0,0 
R_R45         N346250 N34671  130 TC=0,0 
R_R46         N34671 N46544  1k TC=0,0 
